US08686002B2
3-(2-Isopropoxy-6-methoxybenzyl)quinolin-2-amine
Synthesis was performed according to EXAMPLE 3 from 2-[(2-aminoquinolin-3-yl)methyl]-3-methoxyphenol and isopropanol.

reactant | 2-[(2-aminoquinolin-3-yl)methyl]-3-methoxyphenol | NC1=NC2=CC=CC=C2C=C1CC1=C(C=CC=C1OC)O | C17H16N2O2
reactant | isopropanol | C(C)(C)O | C3H8O
product | 3-(2-Isopropoxy-6-methoxybenzyl)quinolin-2-amine | C(C)(C)OC1=C(CC=2C(=NC3=CC=CC=C3C2)N)C(=CC=C1)OC | C20H22N2O2
